US04344945
4-(3,4-Dihydro-2,2-dioxo-1H-2,1,3-benzothiadiazin-3-yl)-piperidine
In this reference example, 7.14 g (20 m.mols) of 1-benzyl-4-(3,4-dihydro-2,2-dioxo-1H-2,1,3-benzothiadiazin-3-yl)-piperidine, 2 g of 10% palladium carbon, 20 ml of 1 N hydrochloric acid, 60 ml of water and 120 ml of methanol are mixed. While the mixture is stirred at 40° C., hydrogen gas is blown into the mixture at 40° C. for 20 hours. The reaction mixture is filtered to remove palladium carbon. The filtrate is concentrated to dryness to obtain 5.0 g of the desired product.

reactant | 1-benzyl-4-(3,4-dihydro-2,2-dioxo-1H-2,1,3-benzothiadiazin-3-yl)-piperidine | 7.14 g | C(C1=CC=CC=C1)N1CCC(CC1)N1S(NC2=C(C1)C=CC=C2)(=O)=O | C19H23N3O2S
reactant | hydrochloric acid | 1 N, 20 ml | Cl | ClH
reactant | water | 60 ml | O | H2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 2 g | [C].[Pd]
solvent | methanol | 120 ml | CO | CH4O
product | 4-(3,4-Dihydro-2,2-dioxo-1H-2,1,3-benzothiadiazin-3-yl)-piperidine | 5.0 g | O=S1(NC2=C(CN1C1CCNCC1)C=CC=C2)=O | C12H17N3O2S
